US07081461B1
An analogous reaction to that described in example 17, but starting with 4-amino-2-methylphenol (6.98 g, 56.7 mmol) and 4-chloro-6,7-dimethoxyquinazoline hydrochloride (14.79 g, 56.7 mmol), yielded 4-(4-hydroxy-3-methylanilino)-6,7-dimethoxyquinazoline (17.72 g, 90% yield) as a white solid:

reactant | 4-amino-2-methylphenol | 56.7 mmol, 6.98 g | NC1=CC(=C(C=C1)O)C | C7H9NO
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | 56.7 mmol, 14.79 g | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-(4-hydroxy-3-methylanilino)-6,7-dimethoxyquinazoline | 17.72 g, 90% yield | OC1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)C | C17H17N3O3
